Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Plaquenil / Iodinated Contrast Media - IV Dye / aspirin / 
Lipitor / Toprol XL / Norvasc
 
Attending: ___
 
Chief Complaint:
urinary incontinence, vaginal prolapse
 
Major Surgical or Invasive Procedure:
dilation and curettage, colpocleisis, perineorrhaphy, TVT 
(sling), cystoscopy

 
History of Present Illness:
___ is a ___ woman
who presents with urinary frequency, urgency, incontinence and
bulge and tissue protrusion in the vagina.  She says the
incontinence has been going on for many years and she thinks it
is time to do something about it.  She also wants the bulge
fixed.  She says that the pads are getting expensive and the
bladder symptoms are annoying.  She states the incontinence is
mostly with urge and is not as much with exertion, or coughing
and sneezing.  She does leak when she laughs sometimes.  She 
says
if she drinks fluids, it increases the amount of leakage.  She
changes her pad at least three times a day.  She wears ___
pad.  She voids anywhere from every half an hour to every two 
and
a half hours.  The frequency is worse in the evening.  She only
drinks decaf coffee.  She wakes up one to two times at night to
urinate.  She has a commode 3 feet from her bed and does make it
to the bathroom.  She denies any enuresis.  Sometimes the urine
can come out without warning.

She denies recurrent bladder infections, kidney stones, dysuria,
pain with voiding.  Sometimes she does not feel like she is
emptying her bladder.  Her urine flow can be slow, intermittent
or normal.  She denies splinting.  She does feel a bulge in the
vagina when she wipes and when she bathes herself.  She denies
constipation.  She has occasional difficulty with bowel
movements, but no fecal incontinence.  She is not sexually
active.

 
Social History:
___
Family History:
Significant for leukemia, hypertension, diabetes
in her father, breast cancer, lung disease, hypertension,
glaucoma in her mother and there is also gallbladder cancer in
the family.

 
Physical Exam:
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding
Ext: no TTP
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing dilation and curettage, colpocleisis, 
perineorrhaphy, TVT (bladder sling), and cystoscopy for 
symptomatic stage 3 pelvic organ prolapse and stress urinary 
incontinence. Please see the operative report for full details.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV morphine and IV 
toradol.
On post-operative day 1, her urine output was adequate so her 
bladder was backfilled 300 cc's, her foley was removed, and she 
underwent a voiding trial.  She voided 275 cc's with a post void 
residual of 89 cc's.  Her diet was advanced without difficulty 
and she was transitioned to PO tramadol, tylenol, and ibuprofen.
By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
atenolol 25 mg daily, brimonidine 0.1% eye drops daily, 
levothyroxine 100 mcg daily, rouvastatin 5 mg  daily

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 8 hours Disp 
#*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
per day Disp #*60 Capsule Refills:*1 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every 8 hours Disp 
#*50 Tablet Refills:*1 
4.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every 6 
hours Disp #*40 Tablet Refills:*0 
5.  Atenolol 25 mg PO DAILY  
6.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES DAILY  
7.  Levothyroxine Sodium 100 mcg PO DAILY  
8.  Rosuvastatin Calcium 5 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pelvic organ prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) until 
cleared by Dr. ___
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___